US07842685B2
Reaction of 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (52.6 mg, 0.217 mmol) and 4-fluorobenzaldehyde (22 μl, 0.206 mmol) according to Reference V and the general procedure for the condensation of 3-aminopyridine-2-thione with aryl acid chlorides gave 2-(4-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine as a white solid. MS (ESI) m/z: Calculated: 346.1; Observed: 347.1 (M++1).

reactant | 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 0.217 mmol, 52.6 mg | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | 4-fluorobenzaldehyde | 0.206 mmol, 22 μl | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3-aminopyridine-2-thione | NC=1C(NC=CC1)=S | C5H6N2S
product | 2-(4-fluorophenyl)-5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine | FC1=CC=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C21H15FN2S
